US09079866B2
Step A: 3-Bromo-2-((tetrahydro-2H-thiopyran-4-yl)oxy)pyridine
To a 100 mL reaction tube, equipped with a reflux condenser and under a nitrogen atmosphere, was added a solution consisting of tetrahydro-2H-thiopyran-4-ol (1.04 g, 8.78 mmol) in DMF (2 mL). The mixture was cooled to the 0° Celsius, and then treated with NaH (0.540 g, 60% dispersion in mineral oil, 13.5 mmol). When the addition was complete, the reaction was warmed to rt and stirred 30 min before adding 3-bromo-2-chloropyridine (1.3 g, 6.8 mmol), and heating at 130° Celsius for 10 hours. The reaction mixture was cooled to rt and carefully quenched with H2O, concentrated to remove the solvent, and extracted with water (20 mL) and EtOAc (3×20 mL). The combined organic extracts were dried over Na2SO4, filtered, and concentrated to dryness. The crude material was purified by FCC to provide the title compound.

reactant | tetrahydro-2H-thiopyran-4-ol | 8.78 mmol, 1.04 g | S1CCC(CC1)O | C5H10OS
reactant | NaH | 13.5 mmol, 0.540 g | [H-].[Na+]
reactant | 3-bromo-2-chloropyridine | 6.8 mmol, 1.3 g | BrC=1C(=NC=CC1)Cl | C5H3BrClN
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 3-Bromo-2-((tetrahydro-2H-thiopyran-4-yl)oxy)pyridine | BrC=1C(=NC=CC1)OC1CCSCC1 | C10H12BrNOS
